US07897792B2
4-(tert-Butyldimethylsilyloxymethyl)-2-chloro-3-fluoropyridine
A mixture of (2-chloro-3-fluoropyridin-4-yl)-methanol (200 mg, 1.24 mmol), imidazole (253 mg, 3.72 mmol) and tert-butyldimethylchlorosilane (373 mg, 2.48 mmol) in DMF was stirred at room temperature for 2 hours. Methylene chloride was then added to the reaction solution, and the solution was washed with saturated saline. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was distilled away under reduced pressure. The resultant residue was purified by silica gel column chromatography to yield the title compound (319 mg, 93%).

reactant | (2-chloro-3-fluoropyridin-4-yl)-methanol | 1.24 mmol, 200 mg | ClC1=NC=CC(=C1F)CO | C6H5ClFNO
reactant | imidazole | 3.72 mmol, 253 mg | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylchlorosilane | 2.48 mmol, 373 mg | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | Methylene chloride | C(Cl)Cl | CH2Cl2
solvent | DMF | CN(C)C=O | C3H7NO
product | 4-(tert-Butyldimethylsilyloxymethyl)-2-chloro-3-fluoropyridine | 319 mg, 93% | [Si](C)(C)(C(C)(C)C)OCC1=C(C(=NC=C1)Cl)F | C12H19ClFNOSi
